US06765008B1
Butyl-ethyl-[7-(4-fluoromethyl-2,6-dimethyl-phenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine
A solution of {4-[4-(butyl-ethyl-amino)-2,5-dimethyl-pyrrolo[2,3-d]pyrimidin-7-yl]-3,5-dimethylphenyl}-methanol (0.071 g, 0.186 mmol) in 2 ml anhydrous methylene chloride was cooled to −78° C. and treated with dimethylaminosulfur trifluoride (0.063g, 0.390 mmol) and stirred at room temperature for 1 hour. The mixture was quenched with water and extracted with chloroform. The organic layer was washed with brine, dried, and concentrated to give an oil which was purified through silica gel using 2% methanol/chloroform as eluent to give the title compound as an off-white solid, mp 163-165° C.

reactant | {4-[4-(butyl-ethyl-amino)-2,5-dimethyl-pyrrolo[2,3-d]pyrimidin-7-yl]-3,5-dimethylphenyl}-methanol | 0.186 mmol, 0.071 g | C(CCC)N(C=1C2=C(N=C(N1)C)N(C=C2C)C2=C(C=C(C=C2C)CO)C)CC | C23H32N4O
reactant | dimethylaminosulfur trifluoride | 0.390 mmol, 0.063g | CN(C)S(F)(F)F | C2H6F3NS
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | Butyl-ethyl-[7-(4-fluoromethyl-2,6-dimethyl-phenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | C(CCC)N(C=1C2=C(N=C(N1)C)N(C=C2C)C2=C(C=C(C=C2C)CF)C)CC | C23H31FN4
